US05250548
2-Butyl-4-{N-[(2'-[N-triphenylmethyl-tetrazol-5-yl]biphenyl-4-yl)methyl]amino}pyrimidine-5-carbonitrile, the intermediate in Step 2 of Example 14, is reduced with excess lithium aluminum hydride to afford 5-aminomethyl-2-butyl-4-{N-[(2'-[N-triphenylmethyl-tetrazol-5-yl]biphenyl-4-yl)methyl]amino}pyrimidine. The triphenylmethyl group is removed, as described in Step 4 of Example 1, to give the title compound.

reactant | 2-Butyl-4-{N-[(2'-[N-triphenylmethyl-tetrazol-5-yl]biphenyl-4-yl)methyl]amino}pyrimidine-5-carbonitrile | C(CCC)C1=NC=C(C(=N1)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C#N | C42H36N8
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 5-aminomethyl-2-butyl-4-{N-[(2'-[N-triphenylmethyl-tetrazol-5-yl]biphenyl-4-yl)methyl]amino}pyrimidine | NCC=1C(=NC(=NC1)CCCC)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C42H40N8
